US04205074
To 1.39 g. of α,α-diphenylquinolizidine-2-methanol was added 10 ml. of ethanolic hydrochloride. The resulting mixture was refluxed for 4 hrs. with stirring. The residue remained after the removal of the ethanol by distillation was dissolved in water. The solution was rendered alkaline with a potassium carbonate solution and extracted with chloroform. The chloroform layer was washed with water and dried. After the solvent was removed by distillation, light yellow liquid was obtained. The product was converted into the hydrochloride in a conventional manner. By recrystallization from acetone-ether, 0.47 g. of colorless needle 2-diphenylmethylenequinolizidine hydrochloride showing a melting point of 233° to 235° C. was obtained.

reactant | α,α-diphenylquinolizidine-2-methanol | C1(=CC=CC=C1)C(O)(C1CC2CCCCN2CC1)C1=CC=CC=C1 | C22H27NO
reactant | hydrochloride | Cl | ClH
product | 2-diphenylmethylenequinolizidine hydrochloride | Cl.C1(=CC=CC=C1)C(=C1CC2CCCCN2CC1)C1=CC=CC=C1 | InChI=1S/C22H25N.ClH/c1-3-9-18(10-4-1)22(19-11-5-2-6-12-19)20-14-16-23-15-8-7-13-21(23)17-20;/h1-6,9-12,21H,7-8,13-17H2;1H
